US08729263B2
To a suspension of 3-(benzo[b]thiophen-2-yl)-6-chloropyridazine (100 mg, 0.41 mmol) in n-butanol (2 mL) in a 2 mL microwave vial was added 1,2,2,6,6-pentamethylpiperidin-4-amine (276 mg, 1.62 mmol) and DIPEA (0.14 mL, 0.81 mmol). The reaction vessel was sealed and heated via microwave radiation for 180 min at 180° C. The crude reaction mixture was diluted in EtOAc. The organic layer was washed with water (5×), brine, dried over MgSO4, filtered and concentrated. The crude product was purified via HPLC to give 25 mg of 6-(benzo[b]thiophen-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)pyridazin-3-amine. LCMS Rt=0.54 min (LCMS method Q); (M+1)=381.1. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.73-7.82 (m, 1H), 7.64-7.73 (m, 1H), 7.54 (d, J=9.1 Hz, 1H), 7.53 (s, 1H), 7.21-7.34 (m, 2H), 6.56 (d, J=9.3 Hz, 1H), 4.55 (d, J=7.8 Hz, 1H), 4.14-4.32 (m, 1H), 2.20 (s, 3H), 1.93 (dd, J=12.4, 3.8 Hz, 2H), 1.30 (apparent t, J=12.1 Hz, 2H), 1.07 (s, 6H), 1.10 (s, 6H).

reactant | 3-(benzo[b]thiophen-2-yl)-6-chloropyridazine | 0.41 mmol, 100 mg | S1C2=C(C=C1C=1N=NC(=CC1)Cl)C=CC=C2 | C12H7ClN2S
reactant | 1,2,2,6,6-pentamethylpiperidin-4-amine | 1.62 mmol, 276 mg | CN1C(CC(CC1(C)C)N)(C)C | C10H22N2
reactant | DIPEA | 0.81 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(benzo[b]thiophen-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)pyridazin-3-amine | 25 mg | S1C2=C(C=C1C1=CC=C(N=N1)NC1CC(N(C(C1)(C)C)C)(C)C)C=CC=C2 | C22H28N4S
